US07098222B2
6-{2-[(2R)-2-methyl-pyrrolidin-1-yl]-ethyl}-2-(3-phenyl-isoxazol-5-yl)-quinoline
The title compound was prepared using the procedure described in Example 1G substituting 1-(3-phenyl-isoxazol-5-yl)-ethanone (Ohsawa, A. et. al. Heterocycles 1978, 9, pages 1367–1373) for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CD3OD) δ 1.18 (d, J=6 Hz, 3H), 1.50 (m, 1H), 1.82 (m, 2H), 2.04 (m, 1H), 2.39 (q, J=6 Hz, 1H), 2.52 (m, 2H), 3.08 (m, 2H), 3.22 (m, 2H), 7.53 (m, 3H), 7.64 (s, 1H), 7.78 (dd, J=9 Hz, J=3 Hz, 1H), 7.85 (s, 1H), 7.99 (m, 2H), 8.10 (dd, J=9 Hz, J=3 Hz, 2H), 8.45 (d, J=9 Hz, 1H); MS (DCI/NH3) m/z 384 (M+H)+.

reactant | 1-(3-phenyl-isoxazol-5-yl)-ethanone | C1(=CC=CC=C1)C1=NOC(=C1)C(C)=O | C11H9NO2
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 6-{2-[(2R)-2-methyl-pyrrolidin-1-yl]-ethyl}-2-(3-phenyl-isoxazol-5-yl)-quinoline | C[C@H]1N(CCC1)CCC=1C=C2C=CC(=NC2=CC1)C1=CC(=NO1)C1=CC=CC=C1 | C25H25N3O
